US04564696
77.4 g of sodium methylate, 97 percent, was suspended in 100 g of acetonitrile at ambient temperature. To this well-stirred suspension, 101.9 g of 97.5 percent 4-chloroacetoacetic acid methyl ester was added by drops through a drip funnel with a drop counter over a 5 to 6 minute period under N2 atmosphere. The temperature rose and was kept by means of cooling at 68° to 70° C. As soon as the heat development slackened, the cooling water was turned off and the reaction mass was heated with 70° C. hot water. This pastelike, mustard-yellow reaction mixture continued to be stirred at 70° C. for 24 to 25 minutes and, with stirring, was then slowly introduced into a solution of 6 g of glacial acetic acid and 215 g of water cooled in an ice bath. At the same time, 37.4 percent hydrochloric acid was introduced drop by drop from a burette. At the same time, the pH was measured by means of a glass electrode and kept between 4.5 and 8 by adjusting the addition rate of the reaction mixture and/or HCl. At the end of the neutralization, the pH was 6.1±0.1. For the neutralization, 56.4 ml of hydrochloric acid were used (37.4 percent) and the temperature was kept at 30° to 35° C. The neutralized mixture was put into a separating funnel. After standing a short time, the resultant layers were separated. The aqueous layer was extracted once with 200 ml and then twice each time with 100 ml of acetonitrile. The united organic phases were concentrated in a rotary evaporator at 30° to 35° C. and ≃20 torr up to a constant weight. The solvent evaporated off was regenerated and used with the next batch. The raw product was distilled at 0.5 to 1.5 torr/90° C. 4-methoxyacetoacetic acid methyl ester was obtained in a yield of 91.7 percent, based on the amount of chloroester used. The purity of the product was 98.8 percent.

reactant | sodium methylate | 77.4 g | C[O-].[Na+]
reactant | 4-chloroacetoacetic acid methyl ester | 101.9 g | COC(CC(=O)CCl)=O | C5H7ClO3
reactant | hydrochloric acid | Cl | ClH
reactant | hydrochloric acid | 56.4 ml | Cl | ClH
solvent | acetonitrile | 100 g | C(C)#N | C2H3N
solvent | water | 215 g | O | H2O
solvent | acetic acid | 6 g | C(C)(=O)O | C2H4O2
product | 4-methoxyacetoacetic acid methyl ester | yield of 91.7 percent | COC(CC(=O)COC)=O | C6H10O4
